US06919335B2
5-Bromo-2,3-dihydro-N,N-dimethyl-1H-inden-1-amine
To a solution of 5-bromo-1-chloro-indane (542 mg, 2.35 mmol) in toluene (9 ml) was added dimethylamine (3 ml) and resulting mixture was heated at 90° C. for 1.5 hr. The reaction mixture is concentrated under reduced pressure to yield the title compound (300 mg, 53%). 1H NMR (CDCl3): 2.06 (m, 2H), 2.24 (s, 6H), 2.81-2.93 (m, 2H), 4.27 (t, 1H), 7.22 (d, 1H), 7.33 (d 1H), 7.36 (s, 1H).

reactant | 5-bromo-1-chloro-indane | 2.35 mmol, 542 mg | BrC=1C=C2CCC(C2=CC1)Cl | C9H8BrCl
reactant | dimethylamine | 3 ml | CNC | C2H7N
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-2,3-dihydro-N,N-dimethyl-1H-inden-1-amine | 300 mg, 53% | BrC=1C=C2CCC(C2=CC1)N(C)C | C11H14BrN
